US06927230B2
Under ice-cooling, oxalyl chloride (0.206 mL, 2.4 mmol) and then cat. dimethylformamide were added to a suspension of 6-methoxynicotinic acid (367 mg, 2.4 mmol) in 3 mL of dichloromethane. The mixture was stirred at room temperature for 1.5 hour. The solvent was removed under reduced pressure and the residue was azeotropped with dioxane. A solution of 2,2,2-trifluoro-N′-(4-methoxyphenyl)ethanehydrazonamide (466 mg, 2.0 mmol) and pyridine (0.194 mL, 2.4 mmol) in 5 mL of dioxane was added to a suspension of the residue in 1 mL of dioxane. The mixture was refluxed with stirring for 4 hours. After cooling, the solvent was removed under reduced pressure. The desired product was purified by silica gal column chromatogaraphy (hexane-ethyl acetate 4:1) to give 2-methoxy-5-[1-(4-methoxyphenyl)-3-(trifluoromethyl)-1H-1,2,4-triazol-5-yl]pyridine (90 mg, 14.9% yield).

reactant | oxalyl chloride | 2.4 mmol, 0.206 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-methoxynicotinic acid | 2.4 mmol, 367 mg | COC1=NC=C(C(=O)O)C=C1 | C7H7NO3
reactant | 2,2,2-trifluoro-N′-(4-methoxyphenyl)ethanehydrazonamide | 2.0 mmol, 466 mg | FC(C(N)=NNC1=CC=C(C=C1)OC)(F)F | C9H10F3N3O
reactant | pyridine | 2.4 mmol, 0.194 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-methoxy-5-[1-(4-methoxyphenyl)-3-(trifluoromethyl)-1H-1,2,4-triazol-5-yl]pyridine | 90 mg, 14.9% yield | COC1=NC=C(C=C1)C1=NC(=NN1C1=CC=C(C=C1)OC)C(F)(F)F | C16H13F3N4O2
